US06291467B1
To 55.00 g of N-t-butoxycarbonyl-4-(4-fluorobenzylidene)piperidine was added 475 ml of an ice-cooled solution of 4 N hydrogen chloride in dioxane, followed by stirring at room temperature for 2 hours. The reaction solution was concentrated under reduced pressure, and the resulting crystals were recrystallized from isopropanol to give 40.72 g of 4-(4-fluorobenzylidene)piperidine hydrochloride.

reactant | N-t-butoxycarbonyl-4-(4-fluorobenzylidene)piperidine | 55.00 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=CC1=CC=C(C=C1)F | C17H22FNO2
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(4-fluorobenzylidene)piperidine hydrochloride | 40.72 g | Cl.FC1=CC=C(C=C2CCNCC2)C=C1 | InChI=1S/C12H14FN.ClH/c13-12-3-1-10(2-4-12)9-11-5-7-14-8-6-11;/h1-4,9,14H,5-8H2;1H
